US08138187B2
1-(2-(1H-Indol-3-yl)ethyl)-1,2,3,4-tetrahydroquinoline (Ind-62)
1,2,3,4-Tetrahydroquinoline (5.94 g, 5.6 ml, 44.6 mmol) was added to a solution of 3-(2-bromoethyl)-indole (5.00 g, 22.3 mmol) in dry chloroform (25 ml) at room temperature and the mixture was then stirred under reflux for 5 h. The reaction mixture cooled overnight. The organic phase was extracted with dil. sulfuric acid (2×50 ml). The aqueous phase was rendered basic with 5N NaOH, while cooling with ice, and extracted with ether (3×50 ml). The organic phase was dried over Na2SO4 and concentrated i. vac. Yield: 5.35 g (Ind-62, 88%)

reactant | 1,2,3,4-Tetrahydroquinoline | 44.6 mmol, 5.6 ml, 5.94 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 3-(2-bromoethyl)-indole | 22.3 mmol, 5.00 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(1H-Indol-3-yl)ethyl)-1,2,3,4-tetrahydroquinoline | N1C=C(C2=CC=CC=C12)CCN1CCCC2=CC=CC=C12 | C19H20N2
